US07307084B2
16. 2,3-Dimethyl-8-phenyl-3,6,7,8-tetrahydro-chromeno[7,8-d]imidazole-5-carboxylic Acid
To a suspension of 3.4 g (9.6 mmol) 2,3-dimethyl-8-phenyl-3,6,7,8-tetrahydro-chromeno[7,8-d]imidazole-5-carboxylic acid ethyl ester in 100 ml dioxane and 25 ml water were added 1.4 g (57.7 mmol) lithium hydroxide and the reaction refluxed for 6 h. After cooling to room temperature, the reaction mixture was adjusted to pH=5 with 2 M HCl solution. The precipitate was filtered off and crystallized with n-butanol to afford 3.0 g (96%) of the title compound as a beige solid of m.p. 323°-326° C.

reactant | 2,3-dimethyl-8-phenyl-3,6,7,8-tetrahydro-chromeno[7,8-d]imidazole-5-carboxylic acid ethyl ester | 9.6 mmol, 3.4 g | C(C)OC(=O)C=1C=2CCC(OC2C2=C(N(C(=N2)C)C)C1)C1=CC=CC=C1 | C21H22N2O3
reactant | lithium hydroxide | 57.7 mmol, 1.4 g | [OH-].[Li+]
reactant | HCl | 2 M | Cl | ClH
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | water | 25 ml | O | H2O
product | 2,3-Dimethyl-8-phenyl-3,6,7,8-tetrahydro-chromeno[7,8-d]imidazole-5-carboxylic Acid | 3.0 g, 96% | CC1=NC2=C(N1C)C=C(C=1CCC(OC12)C1=CC=CC=C1)C(=O)O | C19H18N2O3
